US08431596B2
Cyclopropanecarboxylic acid {5-[4-(2-amino-acetylamino)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide (WW-155)
({4-[2-(Cyclopropanecarbonyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-phenylcarbamoyl}-methyl)-carbamic acid tert-butyl ester (0.08 g, 0.17 mmol) was dissolved in dichloromethane (3 ml), microporous p-toluenesulfonic acid (0.16 g, 0.51 mmol) was added and the mixture was shaken overnight. The resin was washed several times with methanol, and then the product was cleaved from the resin using a 2M ammonia/methanol solution. This solution was concentrated in vacuo to give clean product. LCMS method: 2, RT: 1.86 min, MI: 351 [M+1]. NMR (1H, DMSO, 300 MHz): 11.04 (brs, 1H), 8.02 (d, 2H), 7.82 (d, 2H), 7.66 (m, 2H), 7.28 (dd, 1H), 3.34 (brs, 2H), 2.03 (brs, 1H), 0.82 (d, 4H).

reactant | ({4-[2-(Cyclopropanecarbonyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-phenylcarbamoyl}-methyl)-carbamic acid tert-butyl ester | 0.17 mmol, 0.08 g | C(C)(C)(C)OC(NCC(NC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2)=O)=O | C23H26N6O4
reactant | p-toluenesulfonic acid | 0.51 mmol, 0.16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Cyclopropanecarboxylic acid {5-[4-(2-amino-acetylamino)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide | NCC(=O)NC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C18H18N6O2
